US07666879B2
Combine 4-[4-(7-Chloro-imidazo[1,2-a]pyridin-3-yl)-phenyl]-N-(3-trifluoromethyl-phenyl)-butyramide (0.15 g, 0.32 mmol), 4-pyridine boronic acid (0.04 g, 0.35 mmol), S-Phos (0.02 g, 0.04 mmol) and K3PO4 (0.13 g, 0.63 mmol) with dioxane (3.5 mL) and water (1.5 mL) and stir at room temperature while the reaction contents are de-gassed with nitrogen for 5 minutes. Add palladium diacetate (0.01 g, 0.04 mmol). Heat to 100-105° C. for 20 hours. Cool and dilute with water (10 mL) and dichloromethane. The organic layer are then filtered onto a pre-equilibrated in methanol Varian SCX column (10 g), washed with 30 mL each of water, methanol, dichloromethane and methanol. Elute crude product with 2N methanolic ammonia (50 mL). Concentrate the ammonia solution in vacuo to dryness to yield a residue that is chromatographed on silica (0→3% methanol in ethyl acetate over 30 min) to yield 4-[4-(7-Pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-N-(3-trifluoromethyl-phenyl)-butyramide (0.10 g, 0.19 mmol). MS(ESI), m/z 501 (M+1).

reactant | 4-[4-(7-Chloro-imidazo[1,2-a]pyridin-3-yl)-phenyl]-N-(3-trifluoromethyl-phenyl)-butyramide | 0.32 mmol, 0.15 g | ClC1=CC=2N(C=C1)C(=CN2)C2=CC=C(C=C2)CCCC(=O)NC2=CC(=CC=C2)C(F)(F)F | C24H19ClF3N3O
reactant | 4-pyridine boronic acid | 0.35 mmol, 0.04 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | S-Phos | 0.04 mmol, 0.02 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | K3PO4 | 0.63 mmol, 0.13 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | water | 10 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | palladium diacetate | 0.04 mmol, 0.01 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
solvent | water | 1.5 mL | O | H2O
solvent | dioxane | 3.5 mL | O1CCOCC1 | C4H8O2
product | 4-[4-(7-Pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-N-(3-trifluoromethyl-phenyl)-butyramide | 0.19 mmol, 0.10 g | N1=CC=C(C=C1)C1=CC=2N(C=C1)C(=CN2)C2=CC=C(C=C2)CCCC(=O)NC2=CC(=CC=C2)C(F)(F)F | C29H23F3N4O
